US06756378B2
To a stirred solution of ethyl 3-methoxy-4-(2-methylaminoethoxy)benzoate (510 mg, 2.01 mmol) in DMF (13 mL) was added pentafluorophenyl ester of 3-methoxy-4-[N′-(2-methylphenyl)ureido]phenylacetic acid (900 mg, 1.87 mmol) and Et3N (0.420 mL, 3.01 mmol), and the resulting mixture was stirred for 2 days. The mixture was diluted with EtOAc, washed with 1 N HCl, sat. NaHCO3, brine, and dried over Na2SO4. After being evaporated, the residue was purified by column chromatography on silica-gel with CHCl3:MeOH (50:1, v/v) to give 880 mg (85%) ethyl 3-methoxy-4-[2-[3-methoxy-4-[N′-(2-methylphenyl)ureido]phenylacetyl]-N-methylaminoethoxy]benzoate as a colorless amorphous solid. 1H-NMR (CDCl3) d 1.37-1.41 (m, 3 H), 2.28 (s, 3 H), 3.03 and 3.18 (s, 3 H), 3.56 (s, 2 H), 3.65 (s, 2 H), 3.75-3.87 (m, 6 H), 4.06-4.24 (2 H, m), 4.33-4.39 (m, 2 H), 6.68-8.08 (series of m, 12 H).

reactant | ethyl 3-methoxy-4-(2-methylaminoethoxy)benzoate | 2.01 mmol, 510 mg | COC=1C=C(C(=O)OCC)C=CC1OCCNC | C13H19NO4
reactant | 3-methoxy-4-[N′-(2-methylphenyl)ureido]phenylacetic acid | 1.87 mmol, 900 mg | COC=1C=C(C=CC1NC(=O)NC1=C(C=CC=C1)C)CC(=O)O | C17H18N2O4
reactant | Et3N | 3.01 mmol, 0.420 mL | CCN(CC)CC | C6H15N
solvent | DMF | 13 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | ethyl 3-methoxy-4-[2-[3-methoxy-4-[N′-(2-methylphenyl)ureido]phenylacetyl]-N-methylaminoethoxy]benzoate | 880 mg, 85% | COC=1C=C(C(=O)OCC)C=CC1OCC(C(CC1=CC(=C(C=C1)NC(=O)NC1=C(C=CC=C1)C)OC)=O)NC | C30H35N3O7
